US07902400B2
To a mixture of 3 ml of THF and 0.3 g of 3-methoxy-4-(2-propynyloxy)benzoyl chloride were added dropwise 0.19 g of 2-methylcyclohexylamine and 0.16 g of triethylamine in order under ice cooling. The mixture obtained was stirred at room temperature for 4 hours. Then, ethyl acetate was added to the reaction mixture and it was filtered through Celite. The filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.36 g of N-(2-methylcyclohexyl)-3-methoxy 4-(2-propynyloxy)benzamide (hereinafter, described as the compound 2 of the present invention) represented by the formula:

reactant | THF | 3 ml | C1CCOC1 | C4H8O
reactant | 3-methoxy-4-(2-propynyloxy)benzoyl chloride | 0.3 g | COC=1C=C(C(=O)Cl)C=CC1OCC#C | C11H9ClO3
reactant | 2-methylcyclohexylamine | 0.19 g | CC1C(CCCC1)N | C7H15N
reactant | triethylamine | 0.16 g | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-methylcyclohexyl)-3-methoxy 4-(2-propynyloxy)benzamide | 0.36 g | CC1C(CCCC1)NC(C1=CC(=C(C=C1)OCC#C)OC)=O | C18H23NO3
